US05624950
To a solution of 2.8 g of (3aRS,7RS,7aSR)-7-hydroxy-7-(2-methoxyphenyl)-4-perhydroisoindolone and 1.3 cm3 of triethylamine in 60 cm3 of anhydrous dichloromethane are added 1.55 g of (2-methoxyphenyl)acetic acid, 0.03 g of hydroxybenzotriazole hydrate and 1.96 g of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride. After stirring for 20 hours at 20° C., the reaction mixture is washed with 100 cm3 of water, dried over magnesium sulphate and then concentrated to dryness under reduced pressure (2.7 kPa). The residue obtained is recrystallized in ethyl ether and the crystals are drained and then dried under reduced pressure (2.7 kPa). 3.1 g of (3aRS,7RS,7aSR)-7-hydroxy-7-(2-methoxyphenyl)-2-[(2-methoxyphenyl)acetyl]-4-perhydroisoindolone are obtained, in the form of a white solid melting at 184° C.

reactant | (3aRS,7RS,7aSR)-7-hydroxy-7-(2-methoxyphenyl)-4-perhydroisoindolone | 2.8 g | OC1(CCC(C2CNCC12)=O)C1=C(C=CC=C1)OC | C15H19NO3
reactant | triethylamine | 1.3 cm3 | C(C)N(CC)CC | C6H15N
reactant | (2-methoxyphenyl)acetic acid | 1.55 g | COC1=C(C=CC=C1)CC(=O)O | C9H10O3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.96 g | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 60 cm3 | ClCCl | CH2Cl2
catalyst | hydroxybenzotriazole hydrate | 0.03 g | O.OC1=CC=CC=2NN=NC21
product | (3aRS,7RS,7aSR)-7-hydroxy-7-(2-methoxyphenyl)-2-[(2-methoxyphenyl)acetyl]-4-perhydroisoindolone | 3.1 g | OC1(CCC(C2CN(CC12)C(CC1=C(C=CC=C1)OC)=O)=O)C1=C(C=CC=C1)OC | C24H27NO5
